US08008487B2
Preparation of 1-[4-(2-aminoethyl)phenoxy]acetone (Compound 205)
Step 2 Trifluoroacetic acid (0.56 mL, 7.3 mmol) was added to a solution of tert-butyl 2-[4-(2-oxopropoxy)phenyl]ethylcarbamate (216 mg, 0.74 mmol) in CH2Cl2 (4 mL). The reaction mixture was stirred for 3 hr at ambient temperature, and then reaction mixture was stripped of volatiles in vacuo. The residue (143 mg) was used without further purification.

reactant | Trifluoroacetic acid | 7.3 mmol, 0.56 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 2-[4-(2-oxopropoxy)phenyl]ethylcarbamate | 0.74 mmol, 216 mg | O=C(COC1=CC=C(C=C1)CCNC(OC(C)(C)C)=O)C | C16H23NO4
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-(2-aminoethyl)phenoxy]acetone | NCCC1=CC=C(OCC(=O)C)C=C1 | C11H15NO2
